US05686449
1-(3-methyl-1-butyl)amino-2-nitrobenzene
A solution of 1-amino-3-methylbutane (1.5 g) in THF (20 ml) was dropped into a solution of 2-fluoronitrobenzene (2.4 g) in THF (20 ml), at 23° under a nitrogen atmosphere. The mixture was stirred at 23° for 3 h, then heated at reflux for 1.5 h. The mixture was allowed to cool to 23°, then concentrated under vacuum to give a crude compound which was purified by flash chromatography (eluting with CH-EA 9:1) to give the title compound as a yellow oil (2.12 g). T.l.c. CH-EA (4:1) Rf=0.79.

reactant | 1-amino-3-methylbutane | 1.5 g | NCCC(C)C | C5H13N
reactant | 2-fluoronitrobenzene | 2.4 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(3-methyl-1-butyl)amino-2-nitrobenzene | 2.12 g | CC(CCNC1=C(C=CC=C1)[N+](=O)[O-])C | C11H16N2O2
